US07579359B2
Under a nitrogen atmosphere, a mixture of N-(4-chloroquinolin-3-yl)trimethylacetamide (6.00 g, 1 eq), O-isopropylhydroxylamine hydrochloride (7.6 g, 3 eq), and anhydrous isopropanol (80 mL) was heated at 80° C. for 19 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in dichloromethane, washed sequentially with saturated aqueous potassium carbonate, water, and brine, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was purified by column chromatography (150 g of silica gel eluted with a gradient of 20-55% ethyl acetate in dichloromethane) to provide 2.8 g of 2-tert-butyl-1-isopropoxy-1H-imidazo[4,5-c]quinoline as a brown oil.

reactant | N-(4-chloroquinolin-3-yl)trimethylacetamide | 6.00 g, 1 eq | ClC1=C(C=NC2=CC=CC=C12)NC(C(C)(C)C)=O | C14H15ClN2O
reactant | O-isopropylhydroxylamine hydrochloride | 7.6 g, 3 eq | Cl.C(C)(C)ON
solvent | isopropanol | 80 mL | C(C)(C)O | C3H8O
product | 2-tert-butyl-1-isopropoxy-1H-imidazo[4,5-c]quinoline | 2.8 g | C(C)(C)(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)OC(C)C | C17H21N3O
